US03962445
4-Hydroxy-8-methyl-3-nitrocarbostyril
A suspension of 4-hydroxy-8-methylcarbostyril (1.63g; 0.0093 mole), in glacial acetic acid (10 ml) was stirred during the addition of concentrated nitric acid (2.5 ml, d, 1.42) and the mixture warmed for 8 minutes at 100°C, after which time the solution had cleared and began to precipitate the yellow nitro derivative. After cooling, ethanol was added and the solid filtered and washed well with ethanol. On drying in vacuo over P2O5NaOH it had m.p. 266°-267°C (Found: C, 54.41; H, 3.80; N, 12.51; C10H8N2O4 requires; C, 54.55; H, 3.66; N, 12.75%).

reactant | 4-hydroxy-8-methylcarbostyril | 0.0093 mole, 1.63g | OC1=CC(NC2=C(C=CC=C12)C)=O | C10H9NO2
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-8-methyl-3-nitrocarbostyril | OC1=C(C(NC2=C(C=CC=C12)C)=O)[N+](=O)[O-] | C10H8N2O4
